US08461179B1
A −20° C. solution of DIEA (771 mg, 5.97 mmol) and dimethylamine (2.0M in THF, 1.94 mL, 3.88 mmol) in THF (5 mL) was treated drop-wise with a solution of 2-(bromomethyl)-1-fluoro-4-nitrobenzene (698 mg 2.98 mmol) in THF (5 mL) and stirred at RT overnight as the cooling bath expired. The mixture was treated with EtOAc, washed with water, then brine, dried over Na2SO4 and concentrated to dryness to afford 1-(2-fluoro-5-nitrophenyl)-N,N-dimethylmethanamine (494 mg, 84% yield). MS (ESI) m/z: 199.1 [M+H]+.

reactant | DIEA | 5.97 mmol, 771 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 3.88 mmol, 2.0M, 1.94 mL | CNC | C2H7N
reactant | 2-(bromomethyl)-1-fluoro-4-nitrobenzene | 2.98 mmol, 698 mg | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoro-5-nitrophenyl)-N,N-dimethylmethanamine | 494 mg, 84% yield | FC1=C(C=C(C=C1)[N+](=O)[O-])CN(C)C | C9H11FN2O2
